US07300951B2
A solution of ethyl 4,4,4,4′,4′,4′-hexafluoro-dl-valinate (1.64 g, 6.48 mmol), prepared as described (J. Med Chem 1981, 24, 1043–1047), in CH2Cl2 (10 mL) was stirred under N2 atmosphere at 25° C. Pyridine (0.81 mL, 10.04 mmol) was added dropwise followed by 5-bromothiophene-2-sulfonyl chloride (2.034 g, 7.77 mmol) in one portion and the resulting solution stirred for 19 h at 25° C. After this time period, the reaction was complete by TLC (1:4 EtOAc-hexane). After quenching with water (2.0 mL), the mixture was diluted with CH2Cl2 (40 mL). The organic layer was washed sequentially with 1N aqueous HCl (20 mL), saturated aqueous NaHCO3 (20 mL) and brine (15 mL), dried over MgSO4, filtered, and concentrated to obtain a crude oil (3.3 g). The crude product was purified by the Biotage Flash™ 40 chromatography system, eluent: 1:6 EtOAc-hexanes, to afford ethyl N-[(5-bromothien-2-yl)sulfonyl]-4,4,4,4′,4′,4′-hexafluoro-dl-valinate as a white solid (2.40 g, 80.0%). Mass Spectrum (−ESI): 477 (M−H)−.

reactant | ethyl 4,4,4,4′,4′,4′-hexafluoro-dl-valinate | 6.48 mmol, 1.64 g | FC(C(C(N)C(=O)OCC)C(F)(F)F)(F)F | C7H9F6NO2
reactant | Pyridine | 10.04 mmol, 0.81 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-bromothiophene-2-sulfonyl chloride | 7.77 mmol, 2.034 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | ethyl N-[(5-bromothien-2-yl)sulfonyl]-4,4,4,4′,4′,4′-hexafluoro-dl-valinate | 2.40 g, 80.0% | BrC1=CC=C(S1)S(=O)(=O)NC(C(C(F)(F)F)C(F)(F)F)C(=O)OCC | C11H10BrF6NO4S2
